US05278332
The formed substance, 3,4-di-O-allyl-5,6-di-O-benzyl-myo-inositol (12.1 g) together with dibutylin oxide (4.0 g) and dry benzene (150 ml) was heated under reflux for 2 hours. After evaporation of benzene and addition of dry dimethyl formamide (60 ml) and benzyl bromide (5.5 ml) the solution was kept at 50° C. for 24 hours. The crude product was chromatographed on silica gel (250 g) and eluted with ether-light petroleum to give 9.5 g of 1,5,6-tri-O-benzyl-3,4-di-O-allyl-myo-inositol. A mixture of the obtained product, toluene-p-sulphonic acid monohydrate (0.9 g), ethanol (190 ml), water (10 ml) and palladium-on-charcoal (1 g, 10% from Fluka) was heated under reflux with stirring for 4 hours. The crude product was chromatographed on silica gel and elution with ether-light petroleum (4:1) gave a compound, identified with NMR to be 1,5,6-tri-O-benzyl-myo-inositol. The described substances are racemic mixtures. If desired the racemic mixture of the latter one could be separated into the enantiomeric forms by forming diastereomers with camphanic acid.

reactant | toluene-p-sulphonic acid monohydrate | 0.9 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethanol | 190 ml | C(C)O | C2H6O
reactant | 1,5,6-tri-O-benzyl-myo-inositol | C1=CC=C(C=C1)CO[C@@H]2[C@@H](C([C@H]([C@@H](C2OCC3=CC=CC=C3)OCC4=CC=CC=C4)O)O)O | C27H30O6
catalyst | palladium-on-charcoal | 1 g | [Pd] | Pd
solvent | water | 10 ml | O | H2O
product | camphanic acid | C12(C(CC(CC1)C2(C)C)C(=O)O)C | C11H18O2
